US08426585B2
To a mixture of (5R)-5-(hydroxymethyl)-4-oxaspiro[2.4]heptane (116 mg, 0.9 mmol) and Et3N (183.8 mg, 1.82 mmol, Shantou Xilong chemical factory) in dry CH2Cl2 (6 mL) at −10° C. under N2, was added MsCl (203 mg, 1.4 mmol, Shanghai Haiqu chemical Ltd.) dropwise via a syringe. After stirring for 2 hrs at rt, the reaction was quenched with water ice (3 mL), and the water phases were extracted with CH2Cl2 (20 mL×2). The combined organic phases were dried over Na2SO4, and concentrated in vacuo to give ((5R)-4-oxaspiro[2.4]heptane-5-yl)methyl methanesulfonate as pale yellow oil.

reactant | (5R)-5-(hydroxymethyl)-4-oxaspiro[2.4]heptane | 0.9 mmol, 116 mg | OC[C@@H]1OC2(CC2)CC1 | C7H12O2
reactant | Et3N | 1.82 mmol, 183.8 mg | CCN(CC)CC | C6H15N
reactant | MsCl | 1.4 mmol, 203 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | ((5R)-4-oxaspiro[2.4]heptane-5-yl)methyl methanesulfonate | CS(=O)(=O)OC[C@@H]1OC2(CC2)CC1 | C8H14O4S
